US06248770B1
a. Ethyl 4-(5-methyl-1,2,4-oxadiazol-3-yl)-phenylamino-acetate
Prepared analogously to Example 9a from 4-(5-methyl-1,2,4-oxadiazol-3-yl)-aniline and ethyl bromoacetate in N-ethyl-diisopropylamine.

reactant | 4-(5-methyl-1,2,4-oxadiazol-3-yl)-aniline | CC1=NC(=NO1)C1=CC=C(N)C=C1 | C9H9N3O
reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
solvent | N-ethyl-diisopropylamine | C(C)N(C(C)C)C(C)C | C8H19N
product | Ethyl 4-(5-methyl-1,2,4-oxadiazol-3-yl)-phenylamino-acetate | CC1=NC(=NO1)C1=CC=C(C=C1)NCC(=O)OCC | C13H15N3O3
